US04238408
The following runs demonstrate the reaction of 3-cyanosulfolane with sodium cyanide to give sodium 3,4-dicyanobutane-1-sulfinate which was then either oxidized to sodium 3,4-dicyanobutane-1-sulfonate or converted by reaction with methyl iodide to the corresponding methylsulfone, i.e., 2-(2-methylsulfonylethyl)succinonitrile.

reactant | 3-cyanosulfolane | C(#N)C1CS(=O)(=O)CC1 | C5H7NO2S
reactant | sodium cyanide | [C-]#N.[Na+]
product | sodium 3,4-dicyanobutane-1-sulfinate | C(#N)C(CCS(=O)[O-])CC#N.[Na+] | InChI=1S/C6H8N2O2S.Na/c7-3-1-6(5-8)2-4-11(9)10;/h6H,1-2,4H2,(H,9,10);/q;+1/p-1
